US05124324
2-(1H-Indole-3-carbonyloxymethyl)-1,1-dimethylpiperidinium iodide
In benzene (10 ml) was dissolved by heating (1-methyl-2-piperidyl)methyl 1H-indole-3-carboxylate (0.10 g, 0.37 mmol) followed by addition of a benzene (5 ml) solution of methyl iodide (0.14 g, 0.99 mmol). The mixture was allowed to react in a stainless steel sealed tube at 100° C. for 2 hours. The reaction tube was cooled, and a reaction product was scraped out by a spatula, washed with IPE and dried (70° C.) under reduced pressure to give 0.11 g of the title compound as a yellow foamy solid. m.p. 95°-97° C.;

reactant | (1-methyl-2-piperidyl)methyl 1H-indole-3-carboxylate | 0.37 mmol, 0.10 g | N1C=C(C2=CC=CC=C12)C(=O)OCC1N(CCCC1)C | C16H20N2O2
reactant | methyl iodide | 0.99 mmol, 0.14 g | CI | CH3I
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 2-(1H-Indole-3-carbonyloxymethyl)-1,1-dimethylpiperidinium iodide | 0.11 g | [I-].N1C=C(C2=CC=CC=C12)C(=O)OCC1[N+](CCCC1)(C)C | InChI=1S/C17H22N2O2.HI/c1-19(2)10-6-5-7-13(19)12-21-17(20)15-11-18-16-9-4-3-8-14(15)16;/h3-4,8-9,11,13H,5-7,10,12H2,1-2H3;1H
